US05767116
A mixture of 4-carbamoyl-1-(2,4-dinitrophenyl)-pyridinium chloride (13.6 g), 2-methoxyaniline (10 ml) and methanol (500 ml) was stirred at ambient temperature for 16 hours and the solvent was removed in vacuo. Ether containing a small amount of acetone was added and the mixture heated under reflux until solidification of the product was complete. The product was collected by filtration to give 4-carbamoyl-1-(2-methoxyphenyl)-pyridinium chloride as a yellow solid (11.5 g), m.p. 229°-230° C. (dec).

reactant | 4-carbamoyl-1-(2,4-dinitrophenyl)-pyridinium chloride | 13.6 g | [Cl-].C(N)(=O)C1=CC=[N+](C=C1)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-]
reactant | 2-methoxyaniline | 10 ml | COC1=C(N)C=CC=C1 | C7H9NO
solvent | methanol | 500 ml | CO | CH4O
product | 4-carbamoyl-1-(2-methoxyphenyl)-pyridinium chloride | 11.5 g | [Cl-].C(N)(=O)C1=CC=[N+](C=C1)C1=C(C=CC=C1)OC | InChI=1S/C13H12N2O2.ClH/c1-17-12-5-3-2-4-11(12)15-8-6-10(7-9-15)13(14)16;/h2-9H,1H3,(H-,14,16);1H
